US07351719B2
Z44d) 3-chloro-4-(2-diethylamino-ethyl)-phenylamine
A suspension of 2.00 g (7.790 mmol) [2-(2-chloro-4-nitro-phenyl)-ethyl]-diethyl-amine and 0.80 g Raney nickel in THF was hydrogenated for 2.5 h at RT and 25 psi hydrogen pressure. The catalyst was filtered off and the filtrate evaporated down i. vac.

reactant | [2-(2-chloro-4-nitro-phenyl)-ethyl]-diethyl-amine | 7.790 mmol, 2.00 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])CCN(CC)CC | C12H17ClN2O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.80 g | [Ni] | Ni
solvent | THF | C1CCOC1 | C4H8O
product | 3-chloro-4-(2-diethylamino-ethyl)-phenylamine | ClC=1C=C(C=CC1CCN(CC)CC)N | C12H19ClN2
